US04511573
A solution of 3-(4-cyanobenzyl)-2-(3-pyridyl)indole (5.8 g) in 100 ml of a 1:1 mixture of 20% aqueous hydrochloric acid and glacial acetic acid is heated at reflux for 20 hours. After cooling, the solution is poured into ice water (100 ml) and the pH is adjusted to 4.5-5 with saturated sodium bicarbonate solution. The resulting precipitate is extracted with ethyl acetate, the ethyl acetate extract is washed with water and evaporated to dryness to give 3-(4-carboxybenzyl)-2-(3-pyridyl)indole.

reactant | 3-(4-cyanobenzyl)-2-(3-pyridyl)indole | 5.8 g | C(#N)C1=CC=C(CC2=C(NC3=CC=CC=C23)C=2C=NC=CC2)C=C1 | C21H15N3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(4-carboxybenzyl)-2-(3-pyridyl)indole | C(=O)(O)C1=CC=C(CC2=C(NC3=CC=CC=C23)C=2C=NC=CC2)C=C1 | C21H16N2O2
